US07700641B2
A. Synthesis of 6-(benzyloxy)-2,2-dimethylbenzofuran-3(2H)-one
To a solution of 6-(benzyloxy)benzofuran-3(2H)-one (Adams, J. L., et al., J. Med. Chem. (1996), 39(26):5035-46) (1.60 g, 6.67 mmol) in DMF (50.0 mL) were added sodium hydride (0.59 g, 14.7 mmol) and iodomethane (1.46 mL, 23.3 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 16 h and quenched with saturated ammonium chloride (50.0 mL). The aqueous mixture was extracted with ethyl acetate (3×50.0 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/10) to give the title compound (0.85 g, 47%): 1H NMR (300 MHz, CDCl3) δ 7.55 (d, 1H), 7.44-7.30 (m, 5H), 6.69 (dd, 1H), 6.54 (d, 1H), 5.10 (s, 2H), 1.43 (s, 6H); MS (ES+) m/z 269.5 (M+1).

reactant | 6-(benzyloxy)benzofuran-3(2H)-one | 6.67 mmol, 1.60 g | C(C1=CC=CC=C1)OC1=CC2=C(C(CO2)=O)C=C1 | C15H12O3
reactant | sodium hydride | 14.7 mmol, 0.59 g | [H-].[Na+]
reactant | iodomethane | 23.3 mmol, 1.46 mL | IC | CH3I
reactant | DMF | 50.0 mL | CN(C)C=O | C3H7NO
product | 6-(benzyloxy)-2,2-dimethylbenzofuran-3(2H)-one | 0.85 g, 47% | C(C1=CC=CC=C1)OC1=CC2=C(C(C(O2)(C)C)=O)C=C1 | C17H16O3
